US04318912
A solution of benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate (13 mg, 0.05 mmol) in anhydrous CH2Cl2 (1 ml) is cooled in an ice-bath and treated with triethylamine (Et3N) (7 μl, 0.05 mmol). Ketene is passed through the resulting solution for 10 mins. The solvent and excess ketene are removed in vacuo to leave crude benzyl 3-acetoxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | benzyl 1-azabicyclo[3.2.0]heptan-3,7-dione-2-carboxylate | 0.05 mmol, 13 mg | N12C(C(CC2CC1=O)=O)C(=O)OCC1=CC=CC=C1 | C14H13NO4
reactant | triethylamine | 0.05 mmol, 7 μl | C(C)N(CC)CC | C6H15N
reactant | Ketene | C=C=O | C2H2O
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | benzyl 3-acetoxy-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | C(C)(=O)OC1=C(N2C(CC2C1)=O)C(=O)OCC1=CC=CC=C1 | C16H15NO5
